US09403789B2
A solution of 5-benzofurancarboxaldehyde (10 g, 68 mmol) in MeOH (40 mL) was cooled in an ice bath. NaBH4 (3.84 g, 102 mmol) was added over a period of 2 hr and stirring continued for 20 min. Saturated NH4Cl was added. The mixture was suspended in ethyl acetate (100 mL) and the solid was filtered off. The solution was concentrated, partitioned between ethyl acetate and brine, dried over anhydrous Na2SO4, concentrated and dried under high vacuum to furnish benzofuran-5-ylmethanol (10 g, 100%) as a solid, which was taken up in CH2Cl2 (60 mL) to which SOCl2 (5.9 mL, 81 mmol) was added at room temperature. The reaction mixture was stirred for 3 hr. The reaction mixture was diluted with CH2Cl2, washed with a saturated solution of NaHCO3, then brine, dried over anhydrous Na2SO4, and concentrated in vacuo to furnish 5-chloromethylbenzofuran (10 g, 90%) as an oil. This material was used without further purification to synthesize D-benzofurylalanine according to C. Behrens, Tetrahedron 56 (2000), 9443-9449.

reactant | 5-benzofurancarboxaldehyde | 68 mmol, 10 g | O1C=CC2=C1C=CC(=C2)C=O | C9H6O2
reactant | NaBH4 | 102 mmol, 3.84 g | [BH4-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | MeOH | 40 mL | CO | CH4O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | benzofuran-5-ylmethanol | 10 g, 100% | O1C=CC2=C1C=CC(=C2)CO | C9H8O2
